* C:\Users\PRATIM SENAPATI\Desktop\batman logo ltspice v3\circuit\bat logo v3.asc
* Generated by LTspice 24.1.6 for Windows.
X§U1 en vout_upper vin -range 0 +range ADG1201
V1 vin 0 SINE(-6 13 0.1 0 0 -90)
X§U2 -lim vin +range -range neg level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U3 vin +lim +range -range pos level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V2 +lim 0 6.7
V3 -lim 0 2.1
V4 +range 0 15
V5 -range 0 -15
M1 en pos 0 0 NMOS
M2 en neg 0 0 NMOS
V6 +5 0 5
M3 N019 pos +5 N018 PMOS
M4 en neg N019 N018 PMOS
A1 pos 0 0 0 0 pos_inv 0 0 BUF
M5 en_pos*+neg pos_inv 0 0 NMOS
M6 en_pos*+neg neg 0 0 NMOS
M7 N016 pos_inv +5 N012 PMOS
M8 en_pos*+neg neg N016 N012 PMOS
X§U4 en_inv +range 0 -range 3 vout_upper -ve_half en_pos*+neg ADG1219
M9 en_inv en +5 +5 PMOS
M10 en_inv en 0 0 NMOS
M11 en_neg-half en_pos*+neg +5 +5 PMOS
M12 en_neg-half en_pos*+neg 0 0 NMOS
X§U6 0 N007 +range -range v_diff level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C1 N007 vin 100n
R2 v_diff N007 10Meg
X§U7 v_diff 0 +range -range pos_slope level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U9 en_neg-half +range 0 -range pos_val -ve_half neg_val pos_slope ADG1219
V7 pos_val_sin 0 SINE(3.75 1.775 0.2 0 0 180)
V8 neg_val_sin 0 SINE(3.75 1.775 0.2 0 0 0)
X§U5 en_neg-half +range 0 -range 4.75 pos_val pos_val_sin less_than_-10 ADG1219
X§U8 en_neg-half +range 0 -range 4.75 neg_val neg_val_sin less_than_-10 ADG1219
X§U10 -10 vin +range -range less_than_-10 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V10 -10 0 -10
V11 4.75 0 4.75
X§U14 N008 N004 +range -range shifted level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 N008 N006 1k
R4 N008 -1.25 1k
R5 shifted N004 1k
R6 N004 0 1k
X§U15 N017 N013 +range -range bottom level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R8 N017 N015 1k
R9 N017 -5 1k
R10 bottom N013 1k
R11 N013 0 1k
X§U16 0 N009 +range -range N011 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R12 N009 bottom_source 6.8k
V23 bottom_source 0 SINE(0 6 0.05 0 0 90)
D9 N011 N009 D
D10 N010 N011 D
R13 N010 N009 6.8k
R14 N010 N014 3.4k
R15 N014 bottom_source 6.8k
X§U17 0 N014 +range -range N015 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R16 N015 N014 6.8k
X§U18 0 N001 +range -range N003 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N001 shifted_source 6.8k
V12 shifted_source 0 SINE(0 6 0.2 0 0 90)
D1 N003 N001 D
D2 N002 N003 D
R7 N002 N001 6.8k
R17 N002 N005 3.4k
R18 N005 shifted_source 6.8k
X§U19 0 N005 +range -range N006 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R19 N006 N005 6.8k
X§U20 +5 +range 0 -range bottom vout_lower shifted en_wng ADG1219
X§U21 lim_wng bottom +range -range en_wng level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V21 lim_wng 0 0.71
V13 -1.25 0 -1.25
V14 -5 0 -5
V9 3 0 3
.model D D
.model NMOS NMOS
.model PMOS PMOS
.tran 20
* vout_lower is lower part
* All voltage sources
* vout_upper is upper part
* shifted is upper part of wng_lower
* bottom is lower part of wng_lower
* en_wng switches between shifted and bottom
* when vout_upper is off, vout_sel is on
.lib ADG1201.sub
.lib ADG1219.sub
.lib UniversalOpAmp2.lib
.backanno
.end
